US20010047006A1
Preparation of Intermediate Cyclopentanecarboxylic Acid (2-Hydroxypyridin-3-yl)amide
A sample of 10% Pd on C (0.40 g) was added to a solution of 2-hydroxy-3-nitropyridine (3.52 g, 25.0 mmol, 1 equiv) in EtOH. The reaction mixture was stirred at room temperature under H2 atmosphere (balloon) overnight and then was filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was dissolved in CH3CN (100 mL), cooled to 0° C., and cyclopentanecarbonyl chloride (25 mmol, 3.04 mL, 1 equiv) and NMM (2.75 mL, 25 mmol, 1 equiv) were added sequentially. The resulting mixture was stirred at 0° C. for 20 min, then was partitioned between water (400 mL) and 10% CH3OH in CH2Cl2 (2×400 mL). The organic layers were dried over Na2SO4, concentrated, and the resulting residue recrystallized from CH2Cl2/hexanes to afford the title intermediate as a off-white solid (3.36 g, 65%); mp=242-243° C.; IR (cm−1) 3263, 1644, 1605, 1521, 1199; 1H NMR (DMSO-d6) δ 1.51-1.57 (m, 2H), 1.60-1.72 (m, 4H), 1.79-1.88 (m, 2H), 2.98-3.08 (m, 1H), 6.20 (t, 1H, J=6.9), 7.08 (d, 1H, J=6.6), 8.23 (d, 1H, J=7.5), 9.02 (s, br. 1H), 11.95 (s, br. 1H); Anal. C11H14N2O2: C, H, N.

reactant | 2-hydroxy-3-nitropyridine | 25.0 mmol, 3.52 g, 1 equiv | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
reactant | cyclopentanecarbonyl chloride | 25 mmol, 3.04 mL, 1 equiv | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | NMM | 25 mmol, 2.75 mL, 1 equiv | CN1CCOCC1 | C5H11NO
solvent | EtOH | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | Cyclopentanecarboxylic Acid (2-Hydroxypyridin-3-yl)amide | 3.36 g, 65% | OC1=NC=CC=C1NC(=O)C1CCCC1 | C11H14N2O2
